US05854257
A mixture of 2-chloronicotinic acid (10.0 g) and benzylamine (13.34 ml) was heated at 130° C. for 2 hours. The mixture was cooled and the resulting solid was broken up, triturated with water, acidified to pH 6 and filtered. The solid obtained was boiled up in IMS (200 ml), cooled and filtered to give 2-benzylaminonicotinic acid, m.p. 223°-225° C.

reactant | 2-chloronicotinic acid | 10.0 g | ClC1=C(C(=O)O)C=CC=N1 | C6H4ClNO2
reactant | benzylamine | 13.34 ml | C(C1=CC=CC=C1)N | C7H9N
product | 2-benzylaminonicotinic acid | C(C1=CC=CC=C1)NC1=C(C(=O)O)C=CC=N1 | C13H12N2O2
